US08530485B2
Step 2. 4-[1-(1-Cyclopentyl-2-cyclopropylethyl)-1H-pyrazol-4-yl]-7H-pyrrolo[2,3-d]pyrimidine-□trifluoroacetate salt
4-[1-(1-Cyclopentyl-2-cyclopropylethyl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]-methyl-7H-pyrrolo[2,3-d]pyrimidine trifluoroacetate salt (13 mg, 0.023 mol) was stirred at room temperature in a solution of DCM (2 mL) containing TFA (1.5 mL) for two hours. The solvent was removed in vacuo. The resulting residue was redissolved in THF (3 mL), and 6N NaOH (2 mL) was added. After stirring for one hour, the mixture was partitioned between water and ethyl acetate. The organic layer was dried over sodium sulfate and the solvent was removed in vacuo. Purification via preparative-HPLC/MS (C18 eluting with a gradient of H2O and ACN containing 0.1% TFA) afforded the product (9 mg, 90%).

reactant | 4-[1-(1-Cyclopentyl-2-cyclopropylethyl)-1H-pyrazol-4-yl]-7-[2-(trimethylsilyl)ethoxy]-methyl-7H-pyrrolo[2,3-d]pyrimidine trifluoroacetate salt | 0.023 mol, 13 mg | FC(C(=O)O)(F)F.C1(CCCC1)C(CC1CC1)N1N=CC(=C1)C=1C2=C(N=C(N1)C)N(C=C2)OCC[Si](C)(C)C
reactant | TFA | 1.5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | 4-[1-(1-Cyclopentyl-2-cyclopropylethyl)-1H-pyrazol-4-yl]-7H-pyrrolo[2,3-d]pyrimidine | 9 mg, 90% | C1(CCCC1)C(CC1CC1)N1N=CC(=C1)C=1C2=C(N=CN1)NC=C2 | C19H23N5
